US04132676
3,4-Dichloro-5-isothiazolecarboxylic acid (55 g; 0.278 mol) was dissolved in 500 ml of ethanol. The solution was saturated with hydrochloric acid and then refluxed for 3 hrs. The ethanol was distilled on a rotary evaporator leaving a residue which was then charged into 200 ml of water and neutralized with NaHCO3. The water layer was extracted with 2x200 ml of Ch2CL2. The extracts were combined, dried over MgSO4, filtered and the solvent distilled. The remaining liquid was distilled to yield 52.3 g (83%) of ethyl 3,4-dichloroisothiazol-5-carboxylate by 92° (3.0 mm).

reactant | 3,4-Dichloro-5-isothiazolecarboxylic acid | 0.278 mol, 55 g | ClC1=NSC(=C1Cl)C(=O)O | C4HCl2NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | water | 200 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 3,4-dichloroisothiazol-5-carboxylate | 52.3 g, 83% | ClC1=NSC(=C1Cl)C(=O)OCC | C6H5Cl2NO2S
